US08242145B2
Step 2: {3-[2-((4S,5R)-4-Methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-phenyl}-acetic acid ethyl ester
{3-[4-Bromo-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester (1.1 g, 2.1 mmol), bis(pinacolato)diboron (0.8 g, 3.1 mmol), potassium acetate (0.62 g, 6.3 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.17 g, 0.21 mmol) were combined in DMF (15 mL) and degassed with N2 for 10 minutes. The reaction was then stirred at 80° C. for 3 hours, until no starting material was seen by analytical LCMS and tlc. After work-up with EtOAc and brine, the crude material was purified by silica gel chromatography to give the desired product as a colorless oil (1.2 g).

reactant | {3-[4-Bromo-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester | 2.1 mmol, 1.1 g | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C27H26BrNO5
reactant | bis(pinacolato)diboron | 3.1 mmol, 0.8 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 6.3 mmol, 0.62 g | C(C)(=O)[O-].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.21 mmol, 0.17 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | {3-[2-((4S,5R)-4-Methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-phenyl}-acetic acid ethyl ester | 1.2 g | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C33H38BNO7
